US09212187B2
1-Ethyl-7-(3-hydroxy-propyl)-3,3,5-trimethyl-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione
3-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl)propionic acid (1.0 g) was dissolved in THF(20 ml) and was cooled to 0° C. in ice water bath. Triethylamine(0.525 ml) and ethyl chloroformate(0.325 ml) were added to this solution and stirred for 30 minutes at same temperature. Sodium borohydride(0.36 g) was added to the mixture under cooling in ice methanol bath. Methanol(0.64 ml) was added dropwise to the mixture and stirred for 1 hour at same temperature. Water was added to the reaction mixture, followed by extraction using ethyl acetate. The organic layer was dried with magnesium sulfate, and was condensed under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:1→0:1). The purified product was condensed to dryness under reduced pressure to give the title compound(0.71 g) as a colorless oil.

reactant | 3-(1-Ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl)propionic acid | 1.0 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CCC(=O)O | C17H22N2O4
reactant | Triethylamine | 0.525 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.325 ml | ClC(=O)OCC | C3H5ClO2
reactant | Sodium borohydride | 0.36 g | [BH4-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
solvent | Methanol | 0.64 ml | CO | CH4O
product | 1-Ethyl-7-(3-hydroxy-propyl)-3,3,5-trimethyl-1,5-dihydro-benzo[b][1,4]diazepine-2,4-dione | 0.71 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CCCO | C17H24N2O3
